US09145380B2
2-[[3-(3,4-Dichlorophenyl)phenyl]sulfonylamino]-5-phenyl-benzenesulfonamide
5-Bromo-2-[[3-(3,4-dichlorophenyl)phenyl]sulfonylamino]benzenesulfonamide (70 mg, 0.13 mmol) was dissolved in DMF (700 μl), then phenylboronic acid (20 mg, 0.16 mmol) was added followed by the addition of 2M sodium carbonate solution (260 μl). The mixture was subjected to vacuum/argon (×3), tetrakis(triphenylphosphine)palladium (8 mg, 0.05 mol %) was added and the reaction was allowed to stir at 80° C. overnight. The cooled reaction mixture was filtered and was then purified by preparative HPLC (XTerra MS C8 column, acetonitrile/ammonium acetate buffer) to give the title compound (23 mg, 32%).

reactant | 5-Bromo-2-[[3-(3,4-dichlorophenyl)phenyl]sulfonylamino]benzenesulfonamide | 0.13 mmol, 70 mg | BrC=1C=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)C1=CC(=CC=C1)C1=CC(=C(C=C1)Cl)Cl | C18H13BrCl2N2O4S2
reactant | phenylboronic acid | 0.16 mmol, 20 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 260 μl | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 700 μl | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[[3-(3,4-Dichlorophenyl)phenyl]sulfonylamino]-5-phenyl-benzenesulfonamide | 23 mg, 32% | ClC=1C=C(C=CC1Cl)C=1C=C(C=CC1)S(=O)(=O)NC1=C(C=C(C=C1)C1=CC=CC=C1)S(=O)(=O)N | C24H18Cl2N2O4S2
